US09212165B2
Step 8: Preparation of N-(5-(hydroxymethyl)bicyclo[3.2.1]octan-1-yl)pyrazine-2-carboxamide
To a solution of (5-aminobicyclo[3.2.1]octan-1-yl)methanol (327 g, 2.1 mmol) and pyrazine-2-carboxylic acid (260 mg, 2.1 mmol) in DMF (10 mL) was added DIEA (680 mg, 5.22 mmol), followed by HATU (800 mg, 2.1 mmol). After stirring at room temperature for an hour, the reaction mixture was quenched with water (25 mL) and extracted with ethyl acetate (3×25 mL). The combined organic phase was washed with brine, dried over Na2SO4 and concentrated under rescued pressure to give a residue, which was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=2/1) to afford 540 mg (100%) of the title compound, N-(5-(hydroxymethyl)bicyclo[3.2.1]octan-1-yl)pyrazine-2-carboxamide as a colorless oil. ESI-MS m/z: 262 (M+H)+.

reactant | (5-aminobicyclo[3.2.1]octan-1-yl)methanol | 2.1 mmol, 327 g | NC12CCCC(CC1)(C2)CO | C9H17NO
reactant | pyrazine-2-carboxylic acid | 2.1 mmol, 260 mg | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | DIEA | 5.22 mmol, 680 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.1 mmol, 800 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(5-(hydroxymethyl)bicyclo[3.2.1]octan-1-yl)pyrazine-2-carboxamide | 540 mg, 100% | OCC12CCCC(CC1)(C2)NC(=O)C2=NC=CN=C2 | C14H19N3O2
